US07838499B2
Preparation of (2S,3R,4R,5S,6R)-2-(4-chloro-3-(4-(3-methoxyprop-1-en-2-yl)benzyl)phenyl)-6-(hydroxymethyl)tetrahydro-2H-pyran-3,4,5-triol (Intermediate BB)
The solution of (2R,3R,4R,5S,6S)-2-(acetoxymethyl)-6-(3-(4-(3-bromoprop-1-en-2-yl)benzyl)-4-chlorophenyl)tetrahydro-2H-pyran-3,4,5-triyl triacetate (intermediate BA) (110 mg, 0.169 mmol) and 4 mL of 0.3M NaOMe in MeOH (freshly-distilled) was stirred at 70° C. for 2.5 h. Then the reaction was quenched with H2O. After removing the volatiles, the aqueous layer was extracted 3× with AcOEt. The organic portion was washed 1× with a saturated solution of NH4Cl and 1× with brine prior to drying over Na2SO4. Concentration and purification of the crude product by preparative TLC gave intermediate BA (48 mg).

reactant | (2R,3R,4R,5S,6S)-2-(acetoxymethyl)-6-(3-(4-(3-bromoprop-1-en-2-yl)benzyl)-4-chlorophenyl)tetrahydro-2H-pyran-3,4,5-triyl triacetate | 0.169 mmol, 110 mg | C(C)(=O)O[C@@H]1[C@H](O[C@H]([C@@H]([C@H]1OC(C)=O)OC(C)=O)C1=CC(=C(C=C1)Cl)CC1=CC=C(C=C1)C(=C)CBr)COC(C)=O | C30H32BrClO9
reactant | NaOMe | 0.3M, 4 mL | C[O-].[Na+]
solvent | MeOH | CO | CH4O
product | (2S,3R,4R,5S,6R)-2-(4-chloro-3-(4-(3-methoxyprop-1-en-2-yl)benzyl)phenyl)-6-(hydroxymethyl)tetrahydro-2H-pyran-3,4,5-triol | ClC1=C(C=C(C=C1)[C@@H]1O[C@@H]([C@H]([C@@H]([C@H]1O)O)O)CO)CC1=CC=C(C=C1)C(=C)COC | C23H27ClO6
